US07358248B2
1. 2-tert-Butoxycarbonylamino-3-methylsulfonylpropanoic acid methyl ester
A solution of N-tert-butoxycarbonylserine (1.1 g, 5.0 mmol) and triethylamine (0.84 mL, 6.0 mmol) in dichloromethane (50 mL) was cooled to 0° C. and treated with methylsulfonyl chloride (0.44 mL, 5.8 mmol)). After stirring an additional 2 h, the reaction mixture was acidified with 2% HCl (20 mL) and extracted with dichloromethane (3×20 mL). The combined organic layers were washed successively with sat. aq NaHCO3, and sat. aq NaCl, dried over MgSO4 and concentrated. Purification by flash column chromatography (5% ethyl acetate in heptane) gave the desired product (1.25 g, 84%) as an oil. 1H NMR (CDCl3), 5.71 (d, J=7 Hz, 1H), 4.56 (m, 3H), 3.82 (s, 3H), 3.02 (s, 3H), 1.44 (s, 9H).

reactant | N-tert-butoxycarbonylserine | 5.0 mmol, 1.1 g | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | triethylamine | 6.0 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 5.8 mmol, 0.44 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 20 mL | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-tert-Butoxycarbonylamino-3-methylsulfonylpropanoic acid methyl ester | 1.25 g, 84% | COC(C(CS(=O)(=O)C)NC(=O)OC(C)(C)C)=O | C10H19NO6S
